US05292901
3-[{2-(1,3-Benzodioxol-5-yl)ethyl}thio]propionamide
5 g of 2-(1,3-benzodioxol-5-yl)ethanethiol and 4 g of acrylamide were dissolved in 100 ml of ethanol and the solution was heated under reflux to conduct the reaction for 20 h. The reaction mixture was cooled with ice. 100 ml of ethanol was added thereto and crystals thus formed were recovered by filtration to obtain 4.2 g of the intended compound in the form of colorless needles.

reactant | 2-(1,3-benzodioxol-5-yl)ethanethiol | 5 g | O1COC2=C1C=CC(=C2)CCS | C9H10O2S
reactant | acrylamide | 4 g | C(C=C)(=O)N | C3H5NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-[{2-(1,3-Benzodioxol-5-yl)ethyl}thio]propionamide | 4.2 g | O1COC2=C1C=CC(=C2)CCSCCC(=O)N | C12H15NO3S
